US05157041
A solution of 0.725 g of N2 -[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-(2-naphthyl)butyl]-N1 -tert.butyl-L-prolinamide was dissolved in 25 ml of ethanol and hydrogenated at room temperature and under atmospheric pressure over 0.5 g of 10% palladium-on-carbon for 20 hours. The catalyst was filtered off and the filtrate was evaporated to give 0.54 g of N2 -[3(S)-amino-2(R)-hydroxy-L-(2-naphthyl)butyl]-N1 -tert.butyl-L-prolinamide as a white foam which was used without further purification.

reactant | N2 [3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-(2-naphthyl)butyl]-N1 -tert.butyl-L-prolinamide | 0.725 g | N#N.C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC2=CC=CC=C2C=C1
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | N2 [3(S)-amino-2(R)-hydroxy-L-(2-naphthyl)butyl]-N1 -tert.butyl-L-prolinamide | 0.54 g | N#N.N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC2=CC=CC=C2C=C1 | InChI=1S/C23H33N3O2.N2/c1-22(2,3)26-12-6-11-23(26,21(25)28)15-20(27)19(24)14-16-9-10-17-7-4-5-8-18(17)13-16;1-2/h4-5,7-10,13,19-20,27H,6,11-12,14-15,24H2,1-3H3,(H2,25,28);/t19-,20+,23+;/m0./s1
